US05401435
A suspension of 50 g gluconolactone in 500 ml of isopropanol/methanol (4/1) was treated with 23.8 ml of a 40% N-methylamine solution for 30 minutes. The N-methylgluconamide obtained in quantitative yields, was treated at 60° C. with 69 ml acetic anhydride and 35 ml acetic acid in the presence of 1% concentrated sulphuric acid.

reactant | gluconolactone | 50 g | C([C@@H]1[C@H]([C@@H]([C@H](C(=O)O1)O)O)O)O | C6H10O6
reactant | N-methylamine | CN | CH5N
solvent | isopropanol methanol | 500 ml | C(C)(C)O.CO
product | N-methylgluconamide | CNC(=O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H15NO6
